US06960575B2
(2RS,3S)-3-(Benzyloxycarbonyl)amino-4-phenyl-1,2-butanediol (Reference compound No. 14-1)
Ethanol (1 ml) and lithium bromide (36.7 mg) are added to a solution of isopropyl (2RS,3S)-3-(benzyloxycarbonyl)amino-2-hydroxy-4-phenylbutyrate (150 mg, Reference compound No. 13-1) in tetrahydrofuran (1 ml). The mixture is cooled with ice, sodium borohydride (42.1 mg) is added to the mixture, and the temperature is raised to room temperature. The whole is stirred overnight, water is added thereto, and the whole is further stirred for one hour. The reaction mixture is concentrated under reduced pressure, and the resulting residue is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (105 mg).

reactant | Ethanol | 1 ml | C(C)O | C2H6O
reactant | lithium bromide | 36.7 mg | [Br-].[Li+]
reactant | isopropyl (2RS,3S)-3-(benzyloxycarbonyl)amino-2-hydroxy-4-phenylbutyrate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(=O)OC(C)C)O)CC1=CC=CC=C1 | C21H25NO5
reactant | sodium borohydride | 42.1 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2RS,3S)-3-(Benzyloxycarbonyl)amino-4-phenyl-1,2-butanediol | 105 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CO)O)CC1=CC=CC=C1 | C18H21NO4
